US07405210B2
Preparation 85: 4-(N-Benzyl-N-methylamino)piperidine-1-carboxylic acid tert-butyl ester
To a solution of N-benzylmethylamine (648 μL, 5.02 mmol) and 1-tert-butoxycarbonyl-4-piperidone (500 mg, 2.51 mmol) in THF (8 mL) was added sodium triacetoxyborohydride (798 mg, 3.76 mmol) followed by acetic acid (144 μL, 2.51 mmol) and the reaction stirred at rt for 40 h. Solvent was removed in vacuo and the residue partitioned between ethyl acetate (15 mL) and water (15 mL). The organic layer was washed with sodium bicarbonate solution (2×15 mL) then brine (2×20 mL), dried (MgSO4) and the solvent removed in vacuo. The crude material was purified by chromatography using ethyl acetate/petroleum ether (2:1) as the eluent to give the title compound as yellow oil. m/z (ES+)=305.32 [M+H]+.

reactant | N-benzylmethylamine | 5.02 mmol, 648 μL | C(C1=CC=CC=C1)CN | C8H11N
reactant | 1-tert-butoxycarbonyl-4-piperidone | 2.51 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | sodium triacetoxyborohydride | 3.76 mmol, 798 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 2.51 mmol, 144 μL | C(C)(=O)O | C2H4O2
reactant | THF | 8 mL | C1CCOC1 | C4H8O
product | 4-(N-Benzyl-N-methylamino)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C)CC1=CC=CC=C1 | C18H28N2O2
